***2 BIT  VEDIC MULTIPLIER***

VA0 1 0 pulse (2 0 0 0 0 2.5 5)
VA1 2 0 pulse (4 0 0 0 0 5 7.5)
VB0 3 0 pulse (6 0 0 0 0 7.5 10)
VB1 4 0 pulse (8 0 0 0 0 10 12.5)
VDD 5 0 dc 2.5V

.model nmod nmos level=54 version=4.7
M1 10 1 0 0 nmod w=100u l=10u
M2 11 2 0 0 nmod w=100u l=10u
M3 12 3 0 0 nmod w=100u l=10u
M4 13 4 0 0 nmod w=100u l=10u

M5 14 10 0 0 nmod w=100u l=10u
M6 14 12 0 0 nmod w=100u l=10u
M7 15 11 0 0 nmod w=100u l=10u
M8 15 12 0 0 nmod w=100u l=10u
M9 16 10 0 0 nmod w=100u l=10u
M10 16 13 0 0 nmod w=100u l=10u
M11 17 11 0 0 nmod w=100u l=10u
M12 17 13 0 0 nmod w=100u l=10u

M13 18 15 0 0 nmod w=100u l=10u
M14 19 16 0 0 nmod w=100u l=10u
M15 20 17 0 0 nmod w=100u l=10u

M16 27 26 0 0 nmod w=100u l=10u

M17 22 19 23 23 nmod w=100u l=10u
M18 23 18 0 0 nmod w=100u l=10u
M19 22 16 24 24 nmod w=100u l=10u
M20 24 15 0 0 nmod w=100u l=10u

M21 31 20 29 29 nmod w=100u l=10u
M22 29 27 0 0 nmod w=100u l=10u
M23 31 17 30 30 nmod w=100u l=10u
M24 30 26 0 0 nmod w=100u l=10u

M25 26 19 0 0 nmod w=100u l=10u
M26 26 18 0 0 nmod w=100u l=10u

M27 33 20 0 0 nmod w=100u l=10u
M28 33 27 0 0 nmod w=100u l=10u

.model pmod pmos level=54 version=4.7
M29 10 1 5 5 pmod w=200u l=10u
M30 11 2 5 5 pmod w=200u l=10u
M31 12 3 5 5 pmod w=200u l=10u
M32 13 4 5 5 pmod w=200u l=10u

M33 18 10 5 5 pmod w=200u l=10u
M34 14 12 18 18 pmod w=200u l=10u
M35 19 11 5 5 pmod w=200u l=10u
M36 15 12 19 19 pmod w=200u l=10u
M37 20 10 5 5 pmod w=200u l=10u
M38 16 13 20 20 pmod w=200u l=10u
M39 21 11 5 5 pmod w=200u l=10u
M40 17 13 21 21 pmod w=200u l=10u

M41 18 15 5 5 pmod w=200u l=10u
M42 19 16 5 5 pmod w=200u l=10u
M43 20 17 5 5 pmod w=200u l=10u

M44 27 26 5 5 pmod w=200u l=10u

M45 21 19 5 5 pmod w=200u l=10u
M46 21 18 5 5 pmod w=200u l=10u
M47 22 16 21 21 pmod w=200u l=10u
M48 22 15 21 21 pmod w=200u l=10u

M49 28 20 5 5 pmod w=200u l=10u
M50 28 27 5 5 pmod w=200u l=10u
M51 31 17 28 28 pmod w=200u l=10u
M52 31 26 28 28 pmod w=200u l=10u

M53 25 19 5 5 pmod w=200u l=10u
M54 26 18 25 25 pmod w=200u l=10u

M55 32 20 5 5 pmod w=200u l=10u
M56 33 27 32 32 pmod w=200u l=10u

.tran 0.1 50
.control
run
plot V(1) V(2) V(3) V(4)
plot V(14) V(22) V(31) V(33) 
.endc
.end